US07153854B2
A mixture of ethyl 5-[2-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-7-ethyl-4-(5-methyl-3-pyridinyl)pyrrolo[1,2-b]pyridazin-3-yl]pentanoate (107 mg) and hydrazine monohydrate (51.1 mg) in ethanol (2 mL) was heated under reflux for 2 hours. After evaporation of solvent, the residue was partitioned between chloroform and saturated sodium bicarbonate solution. The organic layer was separated, washed with brine, dried over magnesium sulfate, and evaporated in vacuo to give ethyl 5-[2-(aminomethyl)-7-ethyl-4-(5-methyl-3-pyridinyl)pyrrolo[1,2-b]pyridazin-3-yl]pentanoate as yellow oil (67.6 mg).

reactant | ethyl 5-[2-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-7-ethyl-4-(5-methyl-3-pyridinyl)pyrrolo[1,2-b]pyridazin-3-yl]pentanoate | 107 mg | O=C1N(C(C2=CC=CC=C12)=O)CC=1C(=C(C=2N(N1)C(=CC2)CC)C=2C=NC=C(C2)C)CCCCC(=O)OCC | C31H32N4O4
reactant | hydrazine monohydrate | 51.1 mg | O.NN
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | ethyl 5-[2-(aminomethyl)-7-ethyl-4-(5-methyl-3-pyridinyl)pyrrolo[1,2-b]pyridazin-3-yl]pentanoate | 67.6 mg | NCC=1C(=C(C=2N(N1)C(=CC2)CC)C=2C=NC=C(C2)C)CCCCC(=O)OCC | C23H30N4O2
